US08247557B2
Following the general procedure of Norman (Norman, M. H., et al, J. Med. Chem., 2000, 43, 4288), 2,4-dihydroxypyridine (4.931 g, 44.4 mmol) and H2SO4 (20 mL) were combined and cooled to 0° C. HNO3 (20 mL, 44.4 mmol) was added dropwise. The sample was stirred for 30 minutes then poured onto ice. The resulting solid was stored at 4° C. for 1 hour then vacuum filtered to give 2,4-dihydroxy-3-nitropyridine (5.143 g, 32.9 mmol, 74%).

reactant | 2,4-dihydroxypyridine | 44.4 mmol, 4.931 g | OC1=NC=CC(=C1)O | C5H5NO2
reactant | HNO3 | 44.4 mmol, 20 mL | [N+](=O)(O)[O-] | HNO3
solvent | H2SO4 | 20 mL | OS(=O)(=O)O | H2O4S
product | 2,4-dihydroxy-3-nitropyridine | 32.9 mmol, 5.143 g, 74% | OC1=NC=CC(=C1[N+](=O)[O-])O | C5H4N2O4
